US07589076B2
2-(chloro)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
2-(chloro)phenyl chloroformate (5.00 g, 26.2 mmol) was added to a solution of tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate (4.50 g, 20.2 mmol) according to general procedure 1. Yield=4.56 g, 82%. m/z MH+=278.13. HPLC rt=9.3 min.

reactant | 2-(chloro)phenyl chloroformate | 26.2 mmol, 5.00 g | ClC(=O)OC1=C(C=CC=C1)Cl | C7H4Cl2O2
reactant | tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 20.2 mmol, 4.50 g | C(C#C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO2
product | 2-(chloro)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=C(C=CC=C1)Cl | C15H16ClNO2
